US07977331B1
To a suspension of ethyl 3-chloro-12-cyclohexyl-6-oxo-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate (772 mg, 1.77 mmol) in N,N-dimethylformamide (7.7 ml) were added a solution of 1-(2-chloroacetyl)piperidine (343 mg, 2.12 mmol) in N,N-dimethylformamide (2 ml) and potassium carbonate (488 mg, 3.53 mmol), and the mixture was stirred at 90° C. for 1 hr. Furthermore, a solution of 1-(2-chloroacetyl)piperidine (171 mg, 1.06 mmol) in N,N-dimethylformamide (1 ml) and potassium carbonate (244 mg, 1.77 mmol) were added, and the mixture was stirred at 90° C. for 1.5 hr. The mixture was allowed to cool to room temperature, water (10 ml) was added, and the precipitated solid was collected by filtration. The obtained solid was washed with water (10 ml) and dried in vacuo to give ethyl 3-chloro-12-cyclohexyl-6-oxo-5-[2-oxo-2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate (911 mg, yield 92%).

reactant | ethyl 3-chloro-12-cyclohexyl-6-oxo-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate | 1.77 mmol, 772 mg | ClC=1C=CC2=C(NC(CC3=C2N(C2=CC=C(C=C32)C(=O)OCC)C3CCCCC3)=O)C1 | C25H25ClN2O3
reactant | 1-(2-chloroacetyl)piperidine | 2.12 mmol, 343 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
reactant | potassium carbonate | 3.53 mmol, 488 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroacetyl)piperidine | 1.06 mmol, 171 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
reactant | potassium carbonate | 1.77 mmol, 244 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 7.7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | ethyl 3-chloro-12-cyclohexyl-6-oxo-5-[2-oxo-2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate | 911 mg, yield 92% | ClC=1C=CC2=C(N(C(CC3=C2N(C2=CC=C(C=C32)C(=O)OCC)C3CCCCC3)=O)CC(N3CCCCC3)=O)C1 | C32H36ClN3O4
